US08703761B2
2-Amino-N-(5-benzyl-4-phenyl-thiazol-2-yl)-2-methyl-propionamide
[1-(5-Benzyl-4-phenyl-thiazol-2-ylcarbamoyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (6.4 g) was stirred overnight in freshly prepared HCl (g)/EtOAc solution (150 mL). Evaporation of the solvent gave the title compound as the hydrochloride salt. 1H NMR (400 MHz, DMSO-D6) δ 1.62 (s, 6H) 4.24 (s, 2H) 7.16-7.25 (m, 3H) 7.30 (d, J=7.58 Hz, 2H) 7.37 (s, 1H) 7.41-7.47 (m, 2H) 7.58-7.63 (m, 2H) 8.64 (s, 3H). m/z 352.1 (MH+).

reactant | [1-(5-Benzyl-4-phenyl-thiazol-2-ylcarbamoyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 6.4 g | C(C)(C)(C)OC(NC(C)(C)C(NC=1SC(=C(N1)C1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C25H29N3O3S
reactant | HCl | Cl | ClH
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2-Amino-N-(5-benzyl-4-phenyl-thiazol-2-yl)-2-methyl-propionamide | NC(C(=O)NC=1SC(=C(N1)C1=CC=CC=C1)CC1=CC=CC=C1)(C)C | C20H21N3OS
